US09351965B2
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.05 mmol, 24.8 mg), HCl salt of 3-amino-1-(2-fluorobenzyl)cyclohexanol (0.05 mmol, 11 mg), HATU (0.05 mmol, 19 mg) and DIEA (80 μL) in DMA (300 μL) was stirred at room temperature for overnight. The product, N-(3-(2-fluorobenzyl)-3-hydroxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after evaporation of solvent.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.05 mmol, 24.8 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HCl | Cl | ClH
reactant | 3-amino-1-(2-fluorobenzyl)cyclohexanol | 0.05 mmol, 11 mg | NC1CC(CCC1)(O)CC1=C(C=CC=C1)F | C13H18FNO
reactant | HATU | 0.05 mmol, 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 80 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 300 μL | CC(=O)N(C)C | C4H9NO
product | N-(3-(2-fluorobenzyl)-3-hydroxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)O)C=CC=C1 | C46H41FN4O2
